US06225310B1
a) Ethyl 3-{3[(3-amino-5-chlorothien-2-yl)sulfonyl]thioureido}butanoate
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and ethyl 3-isothiocyanatobutyrate by a procedure analogous to the procedure described in example 3-a (yield 93%); 1H-NMR (DMSO-d6): δ1.18 (d, 3H, CH3), 1.20 (t, 3H, CH3), 2.61 (m, 2H, CH2), 4.08 (q, 2H, CH2), 4.58 (m, 1H, CH), 6.46 (br s, 2H, NH2), 6.65 (s, 1H, H-4), 8.34 (br d, 1H, NH), 11.35 (br s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | ethyl 3-isothiocyanatobutyrate | N(=C=S)C(CC(=O)OCC)C | C7H11NO2S
product | Ethyl 3-{3[(3-amino-5-chlorothien-2-yl)sulfonyl]thioureido}butanoate | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(NC(CC(=O)OCC)C)=S | C11H16ClN3O4S3
